US06589977B1
To a solution of 2-(1,5-dimethyl-1H-indol-3-yl)-3-(5-methyl-1H-indol-3-yl)-N-methylmaleimide (100 mg, 0.26 mmol) in DMF (5 mL) was added a small amount of 10% palladium-carbon, and the whole was stirred at room temperature for 1 day under hydrogen atmosphere. The palladium-carbon was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography over silica gel (ethyl acetate:n-hexane =2:1) to obtain 3-(1,5-dimethyl-1H-indol-3-yl)-4-(5-methyl-1H-indol-3-yl)-1-methyl-2,5-dioxopyrrolidine (71 mg, 70.2%) as pale red solids.

reactant | 2-(1,5-dimethyl-1H-indol-3-yl)-3-(5-methyl-1H-indol-3-yl)-N-methylmaleimide | 0.26 mmol, 100 mg | CN1C=C(C2=CC(=CC=C12)C)C=1C(=O)N(C(C1C1=CNC2=CC=C(C=C12)C)=O)C | C24H21N3O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | palladium-carbon | [C].[Pd]
product | 3-(1,5-dimethyl-1H-indol-3-yl)-4-(5-methyl-1H-indol-3-yl)-1-methyl-2,5-dioxopyrrolidine | 71 mg, 70.2% | CN1C=C(C2=CC(=CC=C12)C)C1C(N(C(C1C1=CNC2=CC=C(C=C12)C)=O)C)=O | C24H23N3O2
